US09163021B2
(5-bromopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone
To a mixture of 3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine (Preparation 45, 13 g, 45.43 mmol) in anhydrous diethyl ether (120 mL) at −78° C. was added nBuLi (28.69 mL, 54.5 mmol) dropwise under nitrogen. After stirring at this temperature for 30 minutes, 5-bromo-N-methoxy-N-methylnicotinamide (11.13 g, 45.43 mmol) in diethylether (10 mL) was added dropwise before warming the reaction to room temperature for 18 hours. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution, extracted into EtOAc, the organic layer collected, dried over Na2SO4 and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 80-90% EtOAc in hexanes to afford the title compound as a yellow solid.

reactant | 3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine | 45.43 mmol, 13 g | IC1=CN(C2=C1C=NC=C2)C(C)C | C10H11IN2
reactant | nBuLi | 54.5 mmol, 28.69 mL | [Li]CCCC
reactant | 5-bromo-N-methoxy-N-methylnicotinamide | 45.43 mmol, 11.13 g | BrC=1C=NC=C(C(=O)N(C)OC)C1 | C8H9BrN2O2
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
product | (5-bromopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | BrC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H14BrN3O
